* Schematics Netlist *



R_R1         $N_0002 $N_0001  50  
R_R2         $N_0003 $N_0001  28  
R_R3         $N_0004 $N_0003  78  
R_R4         $N_0005 $N_0004  72  
V_V1         $N_0003 0 100V
E_E1         $N_0001 0 $N_0001 $N_0002 0.2
G_G1         0 $N_0004 $N_0001 $N_0003 0.02
H_H1         $N_0005 0 VH_H1 5
VH_H1        $N_0002 $N_0004 0V
