* Schematics Netlist *



L_L1         $N_0001 $N_0002  2m  
V_V1         $N_0001 0 DC 0V AC 20 
R_R1         0 $N_0003  82  
C_C1         $N_0002 $N_0003  0.1u  
