* Schematics Netlist *



R_R2         0 $N_0001  8  
R_R3         0 $N_0002  {Rl}  
I_I2         $N_0001 $N_0002 DC 8A  
E_E1         $N_0002 $N_0003 $N_0001 0 2
R_R1         $N_0003 $N_0001  7  
I_I1         0 $N_0003 DC 1A  
